US07989622B2
6-chloro-N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-pyridine-3-sulfonamide (100 mg, 0.21 mmol), prepared using procedures similar to those used in Example 8, KHCO3 (40 mg, 0.40 mmol), N1,N1-dimethylethane-1,2-diamine (225 μL, 2.0 mmol) and dry DMF (1.0 mL) were combined and heated to 130° C. with stirring overnight. The reaction mixture was concentrated in vacuo and purified by preparative HPLC to give N-(3-(3,5-dimethoxy-phenylamino)-quinoxalin-2-yl)-6-(2-(dimethylamino)ethylamino)pyridine-3-sulfonamide (21.0 mg, 19%). 1H NMR (400 MHz, DMSO-d6) δ 8.76 (br s, 1H), 8.63 (d, 1H), 8.07 (dd, 1H), 7.40 (m, 1H), 7.34 (m, 1H), 7.28 (d, 2H), 7.14 (m, 4H), 6.47 (d, 1H), 6.12 (m, 1H), 3.75 (s, 6H), 3.35 (m, 2H), 3.14 (m, 2H), 2.74 (s, 6H). MS (EI) m/z for C25H29N7O4S: 524.1 (MH+).

reactant | 6-chloro-N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-pyridine-3-sulfonamide | 0.21 mmol, 100 mg | ClC1=CC=C(C=N1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)OC | C21H18ClN5O4S
reactant | N1,N1-dimethylethane-1,2-diamine | 2.0 mmol, 225 μL | CN(CCN)C | C4H12N2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(3-(3,5-dimethoxy-phenylamino)-quinoxalin-2-yl)-6-(2-(dimethylamino)ethylamino)pyridine-3-sulfonamide | 21.0 mg, 19% | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=NC(=CC1)NCCN(C)C | C25H29N7O4S
